US07375115B2
3-Cyclohexyl-N-[2-[3-[4-(p-toluidino)piperidin-1-yl]propyl]phenyl]propionamide
To a solution of 4-(p-tolyl)aminopiperidine trifluoroacetate (2.08 g) and (3-bromopropenyl)-2-nitrobenzene (3.01 g) dissolved in N,N-dimethylformamide (20 mL) was added potassium carbonate (2.75 g). The solution was stirred with heating at 80° C. for 2 hours. Dichloromethane was added to the reaction solution and the insolubles were filtered off, and the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography [silica gel, dichloromethane-methanol-aqueous ammonia (95:5:0.3)] to give a yellow oily substance (1.05 g). This was dissolved in acetic acid (25 mL), to which 10% palladium carbon (0.50 g) was added. The mixture was vigorously stirred at room temperature under hydrogen atmosphere for 1 hour. The catalyst was filtered off and the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography [silica gel, dichloromethane-methanol-aqueous ammonia (90:10:0.5)] to give a brown oily substance (0.5443 g). Part of the substance (0.3870 g), cyclohexaneacetic acid (0.28 g), 4-dimethylaminopyridine (0.50 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.46 g) were dissolved in N,N-dimethylformamide (5 mL). The solution was stirred at room temperature for 18 hours. After addition of ethyl acetate, the solution was washed in turn with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried (MgSO4), and the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography [silica gel, dichloro-methane-methanol-aqueous ammonia (97:3:0.2)] to give the title compound (0.4190 g).

reactant | 4-(p-tolyl)aminopiperidine trifluoroacetate | 2.08 g | FC(C(=O)O)(F)F.C1(=CC=C(C=C1)NC1CCNCC1)C
reactant | (3-bromopropenyl)-2-nitrobenzene | 3.01 g | BrCC=CC1=C(C=CC=C1)[N+](=O)[O-] | C9H8BrNO2
reactant | potassium carbonate | 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexaneacetic acid | 0.28 g | C1(CCCCC1)CC(=O)O | C8H14O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.46 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | 4-dimethylaminopyridine | 0.50 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | palladium carbon | 0.50 g | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 3-Cyclohexyl-N-[2-[3-[4-(p-toluidino)piperidin-1-yl]propyl]phenyl]propionamide | 0.4190 g | C1(CCCCC1)CCC(=O)NC1=C(C=CC=C1)CCCN1CCC(CC1)NC1=CC=C(C=C1)C | C30H43N3O
